US09233173B2
1.4.3 Synthesis of β-Amanitin-(t-butyloxy-carbonyl)-hexamethylenediamide (I)
20 mg of dried β-amanitin (22 μmol) was dissolved in 0.3 ml of dried dimethylform-amide (DMF), and 0.005 ml of triethylamine was added. Under magnetic stirring, the reaction mixture was cooled to −18° C. (ice/NaCl) and after 10 min 0.164 ml of a mixture of 0.1 ml of chloroisobutylformate and 1.0 ml of DMF (110 μmol, 5 eq.) was added. The reaction was allowed to proceed for 20 min at −18° C. Fifty-five mg (220 μmol, 10 eq.) of t-butyloxy-carbonyl-hexamethylenediamine hydrochloride and 0.005 ml of triethylamine were dissolved in 0.3 ml of DMF, added to the reaction and stirred for 1 h at RT.

reactant | β-amanitin | 22 μmol, 20 mg | CCC(C)C1C(=O)NCC(=O)NC2CS(=O)C3=C(CC(C(=O)NCC(=O)N1)NC(=O)C(NC(=O)C4CC(CN4C(=O)C(NC2=O)CC(=O)O)O)C(C)C(CO)O)C5=C(N3)C=C(C=C5)O | C39H53N9O15S
reactant | triethylamine | 0.005 ml | C(C)N(CC)CC | C6H15N
reactant | chloroisobutylformate | 0.1 ml | ClC(C(C)C)C(=O)[O-]
reactant | t-butyloxy-carbonyl-hexamethylenediamine hydrochloride | 220 μmol, Fifty-five mg, 10 eq. | Cl.C(C)(C)(C)OC(=O)NCCCCCCN
reactant | triethylamine | 0.005 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylform-amide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | DMF | 0.3 ml | CN(C=O)C | C3H7NO
solvent | DMF | 110 μmol, 1.0 ml, 5 eq. | CN(C=O)C | C3H7NO
product | β-Amanitin (t-butyloxy-carbonyl)-hexamethylenediamide | CCC(C)C1C(=O)NCC(=O)NC2CS(=O)C3=C(CC(C(=O)NCC(=O)N1)NC(=O)C(NC(=O)C4CC(CN4C(=O)C(NC2=O)CC(=O)O)O)C(C)C(CO)O)C5=C(N3)C=C(C=C5)O.C(C)(C)(C)OC(=O)[N-]CCCCCC[NH-] | InChI=1S/C39H53N9O15S.C11H23N2O2/c1-4-16(2)31-36(60)41-11-28(53)42-25-15-64(63)38-21(20-6-5-18(50)7-22(20)45-38)9-23(33(57)40-12-29(54)46-31)43-37(61)32(17(3)27(52)14-49)47-35(59)26-8-19(51)13-48(26)39(62)24(10-30(55)56)44-34(25)58;1-11(2,3)15-10(14)13-9-7-5-4-6-8-12/h5-7,16-17,19,23-27,31-32,45,49-52H,4,8-15H2,1-3H3,(H,40,57)(H,41,60)(H,42,53)(H,43,61)(H,44,58)(H,46,54)(H,47,59)(H,55,56);12H,4-9H2,1-3H3,(H,13,14)/q;-1/p-1
